US05246935
A mixture of 3,4-methylenedioxyaniline (275 mg; 2.0 mmol) in toluene (15 ml) and phosgene (4.75 ml; 20% in toluene; 9 mmol) was refluxed for 6 h. The solvent was removed under reduced pressure to give crude 3,4-methylenedioxyphenylisocyanate. The crude product was added to 3-[4-(2-chlorophenyl) -1-piperazinyl]propanol (510 mg; 2.0 mmol) in toluene (30 ml) was refluxed for 16 h. The reaction mixture was then concentrated and submitted to flash chromatography on silica gel 60 eluting with toluene graduated to toluene/ethyl acetate (1:3). The product was taken up in ethanol which was treated with hydrogen chloride in ether. Recrystallization from methanol/ether afforded 550 mg of the title compound. M.p. 211°-213° C. MS (70 eV): m/z 37%, M+), 254 (28), 209 (100), 163 (75), 138 (32), 70 (42).

reactant | 3,4-methylenedioxyaniline | 2.0 mmol, 275 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | phosgene | 9 mmol, 4.75 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-methylenedioxyphenylisocyanate | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
